US04404410
A process for preparing 2,3-dimethyl-2,3-butandiol which comprises introducing into a reaction vessel containing formic acid at 50° to 70° C. while stirred, 2,3-dimethylbutene and hydrogen peroxide, said 2,3-dimethylbutene and hydrogen peroxide being introduced into said formic acid simultaneously but separately and thereafter hydrolyzing pinacol monoformate so formed.

reactant | 2,3-dimethyl-2,3-butandiol | CC(C)(C(C)(O)C)O | C6H14O2
reactant | 2,3-dimethylbutene | CC(=C)C(C)C | C6H12
reactant | hydrogen peroxide | OO | H2O2
reactant | formic acid | C(=O)O | CH2O2
product | pinacol monoformate | C(=O)OC(C)(C)C(C)(C)O | C7H14O3
